US06589978B2
(2RS,5RS)-1-{4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyl}-1H-tetrazole
The title compound, colorless oil, MS: m/e=444.4 (M+H+), was prepared in accordance with the general method of example 82b from (2RS,5RS)-2-(4-chloro-butyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 1H-tetrazole.

reactant | (2RS,5RS)-2-(4-chloro-butyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClCCCCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C21H25ClFNO2S
reactant | 1H-tetrazole | N1N=NN=C1 | CH2N4
product | (2RS,5RS)-1-{4-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-butyl}-1H-tetrazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCCN1N=NN=C1 | C22H26FN5O2S
